US04489003
A mixture of 3.45 (10 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 11.4 g (100 mmol) of trans-2-methylcyclohexanol and 100 mg of powdered potassium cyanide is stirred at 130° for 6 hours, the solution obtained is evaporated to dryness and the residue is chromatographed on a silica gel column. By recrystallization from ethyl acetate there is obtained trans-2-methylcyclohexyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 213°-215° (1:1 mixture of the two diastereoisomers).

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | trans-2-methylcyclohexanol | 100 mmol, 11.4 g | C[C@H]1[C@@H](CCCC1)O | C7H14O
reactant | potassium cyanide | 100 mg | [C-]#N.[K+]
product | trans-2-methylcyclohexyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O[C@H]3[C@@H](CCCC3)C)CCC1)=O | C22H24ClN3O3
